US06313341B1
Into a dry flask was placed a solution of [(4RS, 1E)-4-hydroxy-4-methyl-1-octenyl]tri-n-butyltin (973 mg, 2.26 mmol) in dry tetrahydrofuran (5 ml) under nitrogen atmosphere and the mixture was cooled to 0° C. The solution was dropped with 5.7 ml (4.97 mmol) of a diethyl ether solution of methyllithium (0.88 mol/liter), warmed to room temperature and stirred for 2 h. After cooling to −78° C., the mixture was added with a previously prepared solution of copper (I) cyanide (215 mg, 2.4 mmol) and lithium chloride (102 mg, 2.4 mmol) in dry tetrahydofuran (3 ml) by using a cannula, and stirred for 1 h. The reaction liquid was dropped with boron trifluoride ether complex (283 μl, 2.26 mmol), stirred for 10 min and added with a solution of (±) methyl 7-(3-tert-butyldimethylsilyloxy-5-oxo-1-cyclopentenyl)heptanoate (500 mg, 1.4 mmol) in dry tetrahydrofuran (2 ml) was rapidly added. After stirring for 30 min, 20 ml of a saturated aqueous ammonium chloride/aqueous ammonia (9:1) was added, and stirring was continued for 20 min, letting the temperature rise gradually to room temperature. This mixture was extracted with ethyl acetate (70 ml) two times, and the combined organic layer was washed with a saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo to remove solvent. The residue was purified by silica gel column chromatography [ethyl acetate/hexane (1/5)] to give 590 mg (85% yield) of (±)-methyl(16RS, 13E)-11-tert-butyldimethylsilyloxy-16-hydroxy-16-methyl-9-oxoprost-13-en-1-oate as a colorless oil. The spectral data of IR and 1H NMR were identical with those of the example 2.

reactant | [(4RS, 1E)-4-hydroxy-4-methyl-1-octenyl]tri-n-butyltin | 2.26 mmol, 973 mg | OC(C/C=C/[Sn](CCCC)(CCCC)CCCC)(CCCC)C
reactant | diethyl ether | 4.97 mmol, 5.7 ml | C(C)OCC | C4H10O
reactant | methyllithium | 0.88 mol/liter | C[Li]
reactant | copper (I) cyanide | 2.4 mmol, 215 mg | [Cu]C#N
reactant | lithium chloride | 2.4 mmol, 102 mg | [Cl-].[Li+]
reactant | (±) methyl 7-(3-tert-butyldimethylsilyloxy-5-oxo-1-cyclopentenyl)heptanoate | 1.4 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C19H34O4Si
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (±)-methyl(16RS, 13E)-11-tert-butyldimethylsilyloxy-16-hydroxy-16-methyl-9-oxoprost-13-en-1-oate | 590 mg, 85% yield | COC(CCCCCC[C@H]1C(CC([C@@H]1\C=C\CC(CCCC)(C)O)O[Si](C)(C)C(C)(C)C)=O)=O | C28H52O5Si
